US04801598
5-(N-t-Butylcarbamoyl)-4-(2-chlorophenyl)-3-(N-isopropylcarbamoyl)-6-methyl-2-[2-(2-methylbenzimidazol-1-yl)ethoxymethyl]-1,4-dihydropyridine
Dimethylaminopyridine (0.026 g, 0.21 mmol) and N,N'-dicyclohexylcarbodiimide (0.048 g, 0.23 mmol) were added to a stirred suspension of 5-(N-t-butylcarbamoyl)-3-carboxy-4-(2-chlorophenyl)-6-methyl-2-[2-(2-methylbenzimidazol-1-yl)ethoxymethyl]-1,4-dihydropyridine (0.107 g, 0.2 mmol) in dry dichloromethane (2 ml). The mixture was stirred for 16 hours at 24° C. and then treated with isopropylamine (0.17 ml, 2 mmol). The mixture was stirred for a further 3 hours and the solvent then evaporated and the residue chromatographed on silica gel, eluting with a mixture of methanol and ethyl acetate (1:9) to afford the title compound as a colourless oil which crystallised on standing (0.08 g, 68%), m.p. 191-193° C. Found: C, 66.18; H, 7.38; N, 11.72. C32H40ClN5O3 requires: C, 66.48; H, 6.97; N, 12.11%.

reactant | Dimethylaminopyridine | 0.21 mmol, 0.026 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | N,N'-dicyclohexylcarbodiimide | 0.23 mmol, 0.048 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-(N-t-butylcarbamoyl)-3-carboxy-4-(2-chlorophenyl)-6-methyl-2-[2-(2-methylbenzimidazol-1-yl)ethoxymethyl]-1,4-dihydropyridine | 0.2 mmol, 0.107 g | C(C)(C)(C)NC(=O)C=1C(C(=C(NC1C)COCCN1C(=NC2=C1C=CC=C2)C)C(=O)O)C2=C(C=CC=C2)Cl | C29H33ClN4O4
reactant | isopropylamine | 2 mmol, 0.17 ml | C(C)(C)N | C3H9N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5-(N-t-Butylcarbamoyl)-4-(2-chlorophenyl)-3-(N-isopropylcarbamoyl)-6-methyl-2-[2-(2-methylbenzimidazol-1-yl)ethoxymethyl]-1,4-dihydropyridine | C(C)(C)(C)NC(=O)C=1C(C(=C(NC1C)COCCN1C(=NC2=C1C=CC=C2)C)C(NC(C)C)=O)C2=C(C=CC=C2)Cl | C32H40ClN5O3
